US06946473B2
Ethyl 4-[(4-Fluorobenzenesulfonyl)methylamino]-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate
A mixture of 2.53 g (0.01 mol) of ethyl 4-chloro-1,3-dimethyl-1H pyrazolo[3,4-b]pyridine-5-carboxylate, 1.89 g (0.01 mol) of N-methyl-4-fluorobenzenesulfonamide, 6.91 g (0.05 mol) of anhydrous K2CO3, 0.143 g of 18-crown-6 and 70 ml of anhydrous 1-methyl-2-pyrrolidinone was stirred and heated at 100° C. for 17 hours. The solvent was removed under vacuum and water added to the residue. The mixture was extracted with CH2Cl2, and the extract washed with H2O, brine and dried (Na2SO4). The solution was filtered through a pad of hydrous magnesium silicate and the filtrate concentrated to dryness under vacuum to give 4.98 g of an oil. This oil was chromatographed on a silica gel column with ethyl acetate-hexane(2:3) as solvent to give 3.15 g of solid, mp 107-109° C.

reactant | ethyl 4-chloro-1,3-dimethyl-1H pyrazolo[3,4-b]pyridine-5-carboxylate | 0.01 mol, 2.53 g | ClC1=C2C(=NC=C1C(=O)OCC)N(N=C2C)C | C11H12ClN3O2
reactant | N-methyl-4-fluorobenzenesulfonamide | 0.01 mol, 1.89 g | CNS(=O)(=O)C1=CC=C(C=C1)F | C7H8FNO2S
reactant | K2CO3 | 0.05 mol, 6.91 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-methyl-2-pyrrolidinone | 70 ml | CN1C(CCC1)=O | C5H9NO
catalyst | 18-crown-6 | 0.143 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | Ethyl 4-[(4-Fluorobenzenesulfonyl)methylamino]-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 4.98 g | FC1=CC=C(C=C1)S(=O)(=O)CNC1=C2C(=NC=C1C(=O)OCC)N(N=C2C)C | C18H19FN4O4S
